2187-01-24 07:56:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Found down
   24 Hour Events:
 INVASIVE VENTILATION - START [**2187-1-24**] 01:00 AM
 MULTI LUMEN - START [**2187-1-24**] 02:47 AM
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2187-1-24**] 07:25 AM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Insulin - Regular - 5 units/hour
   Other ICU medications:
   Insulin - Regular - [**2187-1-24**] 07:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-1-24**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 108 (95 - 108) bpm
   BP: 112/53(67) {70/26(46) - 142/66(83)} mmHg
   RR: 20 (20 - 26) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
             11,601 mL
   PO:
             TF:
   IVF:
   7,601 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    960 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                 10,641 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 570 (570 - 570) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI: 47
   PIP: 24 cmH2O
   Plateau: 14 cmH2O
   SpO2: 100%
   ABG: 7.12/29/419/10/-19
   Ve: 7.2 L/min
   PaO2 / FiO2: 698
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   288 mg/dL
   4.4 mg/dL
   10 mEq/L
   4.1 mEq/L
   96 mg/dL
   109 mEq/L
   146 mEq/L
        [image002.jpg]
                             [**2187-1-24**]  02:00 AM
                             [**2187-1-24**]  03:02 AM
   Cr
   4.4
   TCO2
   10
   Glucose
   288
   Other labs: PT / PTT / INR:15.4/38.7/1.4, CK / CKMB /
   Troponin-T:[**Numeric Identifier 5131**]//, ALT / AST:291/775, Alk Phos / T Bili:81/, Amylase /
   Lipase:383/436, Ca++:6.0 mg/dL, Mg++:2.2 mg/dL, PO4:9.0 mg/dL
   Assessment and Plan
   67 yo M found down, with alcohol intoxication, rhabdomyolysis, acute
   renal failure and profound acidosis
   .
   # Respiratory Failure: Secondary to obtunded mental status, also with
   concern for PNA on chest x-ray.  Unknown past tobacco use or prior
   pulmonary history.
   - Obtain ABG
   - Decrease FIO2
   .
   # Rhabdomyolysis: Elevated CK [**Numeric Identifier 5119**] and found down.  Not reportedly on
   statin or other medication that would worsen this.  Thus, likely
   etiology, being found down, is now resolved.  No e/o viral infection or
   autoimmune myopathy at this point.
   - Given 1L D5W with 150 mEq HCO3 now
   - Monitoring serial measurements of serum potassium, calcium,
   phosphate, and creatinine
   .
   # AMS: Found down, initial GCS =3.  Previous AMS s/p seizures and had
   subtherapeutic phenytoin.  No e/o seizure but cannot rule-out NCSE.
   Also with continued alcohol withdrawal, metabolic abnormalities, and
   likely occult infection.
   - Versed for sedation, should treat possible DTs as well
   - EEG to r/o occult seizure
   - Consider Neuro consult
   - Final read head CT
   - Toxic-metabolic as above
   .
   # Metabolic acidosis: Multifactorial related to ARF with uremia, lactic
   acidosis, acoholic ketoacidosis.  Increased Osm gap to 17, but not
   greater than 25.  Likely related to alcoholic ketoacidosis, lactic
   acidosis and the presence of alcohol can alter the assay.
   - Renal
   .
   # Alcohol intoxication: Measurable level on admission.
   - Versed as above for sedation
   - Thiamine, folate
   - seizure precautions
   .
   # Acute renal failure: Likely multifactorial etiology relating to
   prerenal status, hypovolemia, possibly ATN and then worsened by
   rhabdomyolysis and myoglobin induced nephropathy.
   - Agressive IVF as above
   - Bicarbonate as above
   - Renal consult
   - UA, lytes
   - Urine pH
   .
   #  Transaminitis: [**Month (only) 8**] be secondary to initial toxic insult, ischemia,
   alcohol intoxication or viral etiology.
   - Trend
   - IVF as above
   - Consider further work-up with viral etiology should it worsen
   - RUQ u/s
   .
   # Leukocytosis: [**Month (only) 8**] be due to infection (PNA, biliary), aspiration
   pneumonitis or seizures. Blood cultures pending, UA at OSH negative.
   Given Levofloxacin / Zosyn in ED, which is correct empiric therapy for
   CAP requiring ICU admission.
   - Continue Levo 250mg IV (renally dosed)
   - Zosyn IV
   - Follow-up blood cultures / UCx
   - CXR in AM
   - RUQ u/s with doppler
   - EEG
   .
   # Elevated
   .
   # Coffee ground emesis: Concern for this upon admission to OSH.  Guaiac
   negative here.
   - Serial Hct
   - CVL
   - T&C
   - Transfuse < 30
   .
   # Central Arterial line: Left subclavian line in artery.  Vascular
   consulted, to leave in place and pull in OR once more clinically
   stable.
   - Per vascular, leave in place
   .
   FEN: Euvolemic / electrolyte abnormalities as above / NPO
   .
   Ppx: PPI [**Hospital1 **] / pneumoboots
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2187-1-24**] 02:47 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2187-01-24 10:19:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   67 y/o m transferred from [**Hospital3 1618**], h/o EtOH, bipolar, found down
   with empty alcohol bottles around him. GCS in ED was 3 so he was
   intubated. Initial 7.03 HCO3 6 EtOH 403. OG with coffee grounds. Head
   CT and C spine neg. SCL placed. Levophed started for low BP. SCL found
   to be in artery here.
   24 Hour Events:
   CK was 27,000, started HCO3 overnight about 6L. Poor uop. Started zosyn
   and levaquin for possible CAP.
 INVASIVE VENTILATION - START [**2187-1-24**] 01:00 AM
 MULTI LUMEN - START [**2187-1-24**] 02:47 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2187-1-24**] 07:25 AM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Insulin - Regular - 13 units/hour
   Other ICU medications:
   Insulin - Regular - [**2187-1-24**] 07:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-1-24**] 10:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 35.8
C (96.4
   HR: 114 (95 - 117) bpm
   BP: 129/53(69) {70/26(46) - 142/66(83)} mmHg
   RR: 20 (20 - 26) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   CVP: 13 (13 - 13)mmHg
   Total In:
                                                                 12,341 mL
   PO:
   TF:
   IVF:
                                                                  8,341 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  1,470 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                 10,871 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 570 (570 - 570) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 47
   PIP: 24 cmH2O
   Plateau: 15 cmH2O
   SpO2: 100%
   ABG: 7.12/29/419/10/-19
   Ve: 9.4 L/min
   PaO2 / FiO2: 1,048
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL, Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, C collar
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), (Murmur:
   Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right: Trace, Left: Trace
   Skin:  Cool
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   10.0 g/dL
   166 K/uL
   652 mg/dL
   4.4 mg/dL
   10 mEq/L
   4.1 mEq/L
   96 mg/dL
   109 mEq/L
   146 mEq/L
   28.6 %
   2.8 K/uL
        [image002.jpg]
                             [**2187-1-24**]  02:00 AM
                             [**2187-1-24**]  03:02 AM
                             [**2187-1-24**]  08:07 AM
                             [**2187-1-24**]  08:28 AM
   WBC
   2.8
   Hct
   28.6
   Plt
   166
   Cr
   4.4
   TCO2
   10
   Glucose
   288
   652
   Other labs: PT / PTT / INR:15.4/38.7/1.4, CK / CKMB /
   Troponin-T:[**Numeric Identifier 5131**]//, ALT / AST:291/775, Alk Phos / T Bili:81/, Amylase /
   Lipase:383/436, Ca++:6.0 mg/dL, Mg++:2.2 mg/dL, PO4:9.0 mg/dL
   Assessment and Plan
 ALCOHOL ABUSE
 HYPERGLYCEMIA
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RHABDOMYOLYSIS
 ACIDOSIS, METABOLIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   Plan:
   1. Resp failure: Initially intubated for airway protection
   -barriers to extubation include high MV requirements and AMS
   2. ARF: Likely [**12-18**] rhabdo or ATN
   -titrate IVF to uop 100/h
   3. AMS: Seizure vs. ICH vs. EtOH vs. Delirium
   -consider propofol if BP improves
   -f/u head CT final read
   4. Sepsis: Unclear source, doesn't appear to have PNA
   -CT chest/abd pelvis/C spine with only OG contrast
   -CV sat
   -check TTE
   -vigileo
   5. Anemia: Report of bloody diarrhea and coffee grounds at OSH
   -hct q6h
   -keep hct at 30 if CV sat low
   6. Arterial subclavian:
   -follow up vascular surgery recs
   -keep INR <1.5 plt >50
   -need new aline
   7. FEN: NPO for now
   ICU Care
   Nutrition:
   Glycemic Control:  Insulin infusion
   Lines:
   Multi Lumen - [**2187-1-24**] 02:47 AM
   Arterial Line - [**2187-1-24**] 08:02 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   I have seen and examined the patient with the resident and agree with
   the assessment and plan as above with the following
   emphasis/modifications:
   67 year old male history of alcohol abuse and bipolar disorder who
   presents after being found down for unknown period of time.  Had GCS of
   3 and was intubated and brought to outside hospital.   HCT/neck CT
   negative and transferred to [**Hospital1 5**].
   Overnight, has been hypotensive on levophed and also in rhabdo, ARF
   receiving bicarb drip and volume resuscitation.  Also, note a
   subclavian line was placed by outside hospital into his subclavian
   artery.
   Labs as noted above and CXR with ETT in good position and no
   significant infiltrates.
   PE 98  120  BP 112/70 RR  18   Sat 98%
   Lactate 3.7
   Urine output now about 80cc/hour
   Still requiring levophed
   1)  Shock: probable sepsis but other etiologies possible and will
   obtain ECHO to help further discern.  Assuming septic shock, it is
   unclear of the source but could include abdominal, pneumonia
   2) Respiratory Failure
   3) Acidosis
   4) Rhabdomyolysis
   5) Acute Renal Failure
   6) Alcohol Abuse
   7) Malpositioned line in subclavian artery
   Plan:
   1) Broad-spectrum antibiotics (vanc/zosyn/levo)
   2) CT scan to rule out abd source
   3) Place RIJ when feasible (need to rule repeat neck CT to rule
   fracture since no outside images available and then will place line)
   4) Vascular surgery for issue of malpositioned line
   5) Volume resuscitation for shock and rhabdo
 follow perfusion
   endpoints
   6) Thiamine
   Addendum: during the day, patient blood cultures grew gram negative
   bacteria futher emphasizing the need for abd ct scan to evaluate for
   source.  Given persistent hemodynamic instability and confirmed gram
   negatives, we will give a dose of gentamycin believing the benefit of
   using this [**Doctor Last Name **] for this life-threatening gram
 septic shock
   outweighs the nephrotoxic risk.
   Critical Care Time: 40 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2187-1-24**] 17:27 ------

2187-01-25 07:16:00 Physician Resident Progress Note
Chief Complaint: Shock, rhabdo, ARF
   24 Hour Events:
 ARTERIAL LINE - START [**2187-1-24**] 08:02 AM
   right subclavian
 SPUTUM CULTURE - At [**2187-1-24**] 11:43 AM
 EKG - At [**2187-1-24**] 12:21 PM
 TRANSTHORACIC ECHO - At [**2187-1-24**] 01:24 PM
 ARTERIAL LINE - START [**2187-1-24**] 01:39 PM
 MULTI LUMEN - STOP [**2187-1-25**] 01:00 AM
 FEVER - 102.2
F - [**2187-1-24**] 02:00 PM
   - Blood cx: GNR, GPC
   - Sputum cx: GPC
   - Plan for vascular to remove SC line in cath lab tomorrow
   - CT c-spine, torso:
   - Final read of CT head: 1.Gyriform high density focus at left
   frontovertex, without associated edema, mass effect, or gyral
   effacement, likely a chronic finding. This could likely represents
   mineralization, related to old trauma or infarct. 2. Air-fluid levels
   in the left maxillary and frontal sinuses and sphenoid
   air cells, bilaterally, with mild mucosal thickening in the ethmoid air
   cells, representing acute-on-chronic inflammation. No associated
   fracture
   - ScVO2 = 43 --> 64
   - [**Last Name (un) 567**] stim = 54 to 75 to 96
   - New L radial a-line placed
   - One dose Gent given, Levaquin d/c'd
   - Bicarb gtt stopped, switched to NS
   - Trop 0.19 from 0.06, MB index negative
   - CT torso: colitis desc & sigmoid colon, consolidation dependent lungs
   - CT c-spine: neg for fx
   - Surgery c/s: will follow, NTD
   - INR 1.6, given 5mg IV Vit K (? nutritional deficiency as PTT normal)
   - New R IJ placed, fem line pulled
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2187-1-24**] 02:31 PM
   Piperacillin/Tazobactam (Zosyn) - [**2187-1-24**] 04:00 PM
   Gentamicin - [**2187-1-24**] 05:49 PM
   Piperacillin - [**2187-1-25**] 12:00 AM
   Metronidazole - [**2187-1-25**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 7 mg/hour
   Other ICU medications:
   Dextrose 50% - [**2187-1-24**] 10:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-1-25**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 35.9
C (96.6
   HR: 80 (76 - 132) bpm
   BP: 139/65(83) {89/51(63) - 143/76(95)} mmHg
   RR: 23 (0 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 7 (6 - 268)mmHg
   Mixed Venous O2% Sat: 64 - 71
   Total In:
                                                                 20,436 mL
                                                                  4,694 mL
   PO:
   TF:
   IVF:
                                                                 16,386 mL
                                                                  4,694 mL
   Blood products:
   Total out:
                                                                  3,355 mL
                                                                    710 mL
   Urine:
                                                                  2,395 mL
                                                                    710 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 17,081 mL
                                                                  3,984 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PPS
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 470 (470 - 470) mL
   PS : 8 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 53
   PIP: 25 cmH2O
   Plateau: 17 cmH2O
   SpO2: 100%
   ABG: 7.46/35/104/25/1
   Ve: 8.1 L/min
   PaO2 / FiO2: 260
   Physical Examination
   General Appearance: intubated
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   148 K/uL
   9.9 g/dL
   114 mg/dL
   3.8 mg/dL
   25 mEq/L
   3.3 mEq/L
   74 mg/dL
   110 mEq/L
   148 mEq/L
   28.5 %
   6.2 K/uL
        [image002.jpg]
                             [**2187-1-24**]  12:45 PM
                             [**2187-1-24**]  12:56 PM
                             [**2187-1-24**]  02:39 PM
                             [**2187-1-24**]  04:12 PM
                             [**2187-1-24**]  06:54 PM
                             [**2187-1-24**]  07:29 PM
                             [**2187-1-24**]  09:01 PM
                             [**2187-1-24**]  09:20 PM
                             [**2187-1-25**]  04:04 AM
                             [**2187-1-25**]  04:31 AM
   WBC
   6.4
   7.6
   6.2
   Hct
   31.8
   30.8
   27.7
   28.5
   Plt
   245
   183
   148
   Cr
   4.1
   4.1
   3.9
   3.8
   TropT
   0.19
   0.43
   TCO2
   25
   28
   30
   26
   Glucose
   485
   109
   226
   113
   114
   Other labs: PT / PTT / INR:15.7/30.7/1.4, CK / CKMB /
   Troponin-T:[**Numeric Identifier 5142**]/111/0.43, ALT / AST:189/350, Alk Phos / T Bili:55/0.3,
   Amylase / Lipase:294/436, Differential-Neuts:68.0 %, Band:11.0 %,
   Lymph:14.0 %, Mono:5.0 %, Eos:0.0 %, Fibrinogen:433 mg/dL, Lactic
   Acid:1.4 mmol/L, Albumin:1.7 g/dL, LDH:848 IU/L, Ca++:6.0 mg/dL,
   Mg++:2.3 mg/dL, PO4:4.9 mg/dL
   Assessment and Plan
   67 yo M found down, with alcohol intoxication, rhabdomyolysis, acute
   renal failure and profound acidosis
   .
   # Respiratory Failure: Secondary to obtunded mental status, also with
   concern for PNA on chest x-ray.  Unknown past tobacco use or prior
   pulmonary history.
   - GPC in sputum, on vanco
   - Wean vent as tolerated
   .
   # Rhabdomyolysis: Elevated CK [**Numeric Identifier 5119**] and found down.  Not reportedly on
   statin or other medication that would worsen this.  Thus, likely
   etiology, being found down, is now resolved.  No e/o viral infection or
   autoimmune myopathy at this point.
   - Aggressive hydration
   - Monitoring serial measurements of serum potassium, calcium,
   phosphate, and creatinine
   - CK trending down
   .
   # AMS: Found down, initial GCS =3.  Previous AMS s/p seizures and had
   subtherapeutic phenytoin.  No e/o seizure but cannot rule-out NCSE.
   Also with continued alcohol withdrawal, metabolic abnormalities, and
   likely occult infection.
   - Versed for sedation, should treat possible DTs as well
   - EEG to r/o occult seizure
   - Consider Neuro consult
   - Final read head CT: no acute findings on final read
   - Toxic-metabolic as above
   .
   # Metabolic acidosis: Multifactorial related to ARF with uremia, lactic
   acidosis, acoholic ketoacidosis.  Increased Osm gap to 17, but not
   greater than 25.  Likely related to alcoholic ketoacidosis, lactic
   acidosis and the presence of alcohol can alter the assay.
   -          Good UPO with hydration
   -
   .
   # Alcohol intoxication: Measurable level on admission.
   - Versed as above for sedation
   - Thiamine, folate
   - seizure precautions
   .
   # Acute renal failure: Likely multifactorial etiology relating to
   prerenal status, hypovolemia, possibly ATN and then worsened by
   rhabdomyolysis and myoglobin induced nephropathy.
   - Agressive IVF as above
   - Bicarbonate as above
   - Renal consult
   - UA, lytes
   - Urine pH
   .
   #  Transaminitis: [**Month (only) 8**] be secondary to initial toxic insult, ischemia,
   alcohol intoxication or viral etiology.
   - Trend
   - IVF as above
   - Consider further work-up with viral etiology should it worsen
   - RUQ u/s
   .
   # Leukocytosis: [**Month (only) 8**] be due to infection (PNA, biliary), aspiration
   pneumonitis or seizures. Blood cultures pending, UA at OSH negative.
   Given Levofloxacin / Zosyn in ED, which is correct empiric therapy for
   CAP requiring ICU admission.
   - Continue Levo 250mg IV (renally dosed)
   - Zosyn IV
   - Follow-up blood cultures / UCx
   - CXR in AM
   - RUQ u/s with doppler
   - EEG
   .
   # Elevated
   .
   # Coffee ground emesis: Concern for this upon admission to OSH.  Guaiac
   negative here.
   - Serial Hct
   - CVL
   - T&C
   - Transfuse < 30
   .
   # Central Arterial line: Left subclavian line in artery.  Vascular
   consulted, to leave in place and pull in OR once more clinically
   stable.
   - Per vascular, leave in place
   .
   FEN: Euvolemic / electrolyte abnormalities as above / NPO
   .
   Ppx: PPI [**Hospital1 **] / pneumoboots
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2187-1-24**] 01:39 PM
   20 Gauge - [**2187-1-24**] 02:41 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2187-01-25 09:57:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Head CT read was an old finding. [**Last Name (un) 567**] stim was appropriate. Given
   vanco/zosyn/gent, flagyl. Switched to NS. Good uop. Trop went from 0.06
   to 0.19, CK coming down. CT torso showed diffuse colitis. Surgery was
   called to evaluate him, and felt no urgent intervention needed at this
   time. Given vit K. Going to cath lab today for SCL removal from artery.
   Switched to neo for tachycardia. RIJ placed and groin line pulled.
   On/off small amount of neo this am. CVsat initially 43% up to 64% with
   fluid.
 ARTERIAL LINE - START [**2187-1-24**] 08:02 AM
   right subclavian
 SPUTUM CULTURE - At [**2187-1-24**] 11:43 AM
 EKG - At [**2187-1-24**] 12:21 PM
 TRANSTHORACIC ECHO - At [**2187-1-24**] 01:24 PM
 ARTERIAL LINE - START [**2187-1-24**] 01:39 PM
 MULTI LUMEN - STOP [**2187-1-25**] 01:00 AM
 FEVER - 102.2
F - [**2187-1-24**] 02:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2187-1-24**] 02:31 PM
   Piperacillin/Tazobactam (Zosyn) - [**2187-1-24**] 04:00 PM
   Gentamicin - [**2187-1-24**] 05:49 PM
   Metronidazole - [**2187-1-25**] 04:00 AM
   Piperacillin - [**2187-1-25**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 7 mg/hour
   Phenylephrine - 0.3 mcg/Kg/min
   Other ICU medications:
   Dextrose 50% - [**2187-1-24**] 10:15 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-1-25**] 09:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 35.6
C (96
   HR: 89 (76 - 132) bpm
   BP: 128/59(73) {89/51(63) - 143/76(95)} mmHg
   RR: 19 (0 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.8 kg (admission): 80 kg
   CVP: 7 (6 - 268)mmHg
   Mixed Venous O2% Sat: 64 - 71
   Total In:
                                                                 20,436 mL
                                                                  5,611 mL
   PO:
   TF:
   IVF:
                                                                 16,386 mL
                                                                  5,611 mL
   Blood products:
   Total out:
                                                                  3,355 mL
                                                                    870 mL
   Urine:
                                                                  2,395 mL
                                                                    870 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 17,081 mL
                                                                  4,741 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 448 (448 - 470) mL
   PS : 8 cmH2O
   RR (Set): 14
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 53
   PIP: 13 cmH2O
   Plateau: 17 cmH2O
   SpO2: 100%
   ABG: 7.46/35/104/25/1
   Ve: 7.6 L/min
   PaO2 / FiO2: 260
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), (Murmur:
   Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Tender: diffusely
   Extremities: Right: 2+, Left: 2+
   Skin:  Cool
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   9.9 g/dL
   148 K/uL
   114 mg/dL
   3.8 mg/dL
   25 mEq/L
   3.3 mEq/L
   74 mg/dL
   110 mEq/L
   148 mEq/L
   28.5 %
   6.2 K/uL
        [image002.jpg]
                             [**2187-1-24**]  12:45 PM
                             [**2187-1-24**]  12:56 PM
                             [**2187-1-24**]  02:39 PM
                             [**2187-1-24**]  04:12 PM
                             [**2187-1-24**]  06:54 PM
                             [**2187-1-24**]  07:29 PM
                             [**2187-1-24**]  09:01 PM
                             [**2187-1-24**]  09:20 PM
                             [**2187-1-25**]  04:04 AM
                             [**2187-1-25**]  04:31 AM
   WBC
   6.4
   7.6
   6.2
   Hct
   31.8
   30.8
   27.7
   28.5
   Plt
   245
   183
   148
   Cr
   4.1
   4.1
   3.9
   3.8
   TropT
   0.19
   0.43
   TCO2
   25
   28
   30
   26
   Glucose
   485
   109
   226
   113
   114
   Other labs: PT / PTT / INR:15.7/30.7/1.4, CK / CKMB /
   Troponin-T:[**Numeric Identifier 5142**]/111/0.43, ALT / AST:189/350, Alk Phos / T Bili:55/0.3,
   Amylase / Lipase:294/436, Differential-Neuts:68.0 %, Band:11.0 %,
   Lymph:14.0 %, Mono:5.0 %, Eos:0.0 %, Fibrinogen:433 mg/dL, Lactic
   Acid:1.4 mmol/L, Albumin:1.7 g/dL, LDH:848 IU/L, Ca++:6.0 mg/dL,
   Mg++:2.3 mg/dL, PO4:4.9 mg/dL
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 ALCOHOL ABUSE
 HYPERGLYCEMIA
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RHABDOMYOLYSIS
 ACIDOSIS, METABOLIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   1. Sepsis: Suspected [**12-18**] pancolitis, possibly C. Diff
   -zosyn/flagyl/IV vanco, got gent X1
   -start po vanco today
   -get ID of bug today, if not
   2. Resp: Initially intubated for airway protection
   -adv ETT 3 cm, recheck CXR
   -extubate p cath lab if awake
   3. Rhabdo: Good uop
   -cont. LR
   4. Hyperglycemia: On insulin gtt, now off
   -switched to LR with improved BS
   5. EtOH intoxication: At risk for DTs on versed gtt
   -hold for extubation after cath lab
   -then CIWA scale
   6. SCL that is arterial
   -going to cath lab today for removal
   7. FEN: NPO for now
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Arterial Line - [**2187-1-24**] 01:39 PM
   20 Gauge - [**2187-1-24**] 02:41 PM
   Multi Lumen - [**2187-1-25**] 07:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   I have seen and examined the patient with the resident and agree with
   the assessment and plan as above with the following
   emphasis/modifications:
   67 year old male history of alcohol abuse and bipolar disorder who
   presents after being found down for unknown period of time.  Had GCS of
   3 and was intubated and brought to outside hospital.   HCT/neck CT
   negative and transferred to [**Hospital1 5**].
   Yesterday, found to have both gram negatives and gram positives in
   blood.  Was hypotensive and elevated lactate but overnight was
   aggressively resuscitated and doing better.
   Labs as noted above and CXR with ETT that is high (5 cm above carina)
   PE Tmax 39.1  Tc 35.6  P 89  BP 112/70 RR  18   Sat 98%
   Lactate 1.4
   - CT scan with colitis, enlarged gluteal muscle
   Urine output 30-50 cc/hour
   - still intermittently requiring low doses of phenylephrine but
   improving
   1) Septic Shock
 polymicrobial (gram negatives, gram positives in
   blood)
 source likely translocation from gut as patient has diffuse
   colitis
 gram positive cocci might be enterococci
 will await full
   culture results
   2) Colitis
 surgery following
   3) Respiratory Failure
   4) Acidosis
   5) Rhabdomyolysis
   6) Acute Renal Failure
   7) Alcohol Abuse
   8) Malpositioned line in subclavian artery
   Plan:
   1) Continue Zosyn/gent/vancomycin
   2) Surgery consulted following for colitis and gluteal muscle swelling
   (? Myositis)
   3) Remove right subclavian malpositioned line in cath lab per vascular
   4) Resuscitation as dictated by perfusion endpoints
   5) Continue mechanical ventilation at current settings
   Critical Care Time: 35
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2187-1-25**] 10:15 PM ------

2187-01-26 07:32:00 Physician Resident Progress Note
Chief Complaint: Septic shock, rhabdo, renal failure
   24 Hour Events:
 ARTERIAL LINE - STOP [**2187-1-25**] 05:00 PM
   right subclavian
   - went to cath lab for removal of central line, arteriogram showed
   small extravasation so covered stent placed.    HCT 29-->20-->
   transfused 1 unit pRBCs-->25.  CXR no hemothorax.  Received 32cc
   contrast and got bicarb after.
   -
   restarted anti-seizure meds.  discussed dosing with pharm
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2187-1-24**] 04:00 PM
   Gentamicin - [**2187-1-24**] 05:49 PM
   Vancomycin - [**2187-1-25**] 12:00 PM
   Piperacillin - [**2187-1-26**] 02:00 AM
   Metronidazole - [**2187-1-26**] 05:52 AM
   Infusions:
   Midazolam (Versed) - 7 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2187-1-25**] 06:00 PM
   Fentanyl - [**2187-1-26**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-1-26**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.9
C (96.6
   HR: 85 (84 - 99) bpm
   BP: 147/70(92) {96/52(63) - 155/74(101)} mmHg
   RR: 16 (0 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.8 kg (admission): 80 kg
    CVP: 7 (6 - 21)mmHg
   Total In:
                                                                 11,087 mL
                                                                  1,957 mL
   PO:
   TF:
   IVF:
                                                                  9,677 mL
                                                                  1,837 mL
   Blood products:
                                                                  1,350 mL
   Total out:
                                                                  2,550 mL
                                                                  1,020 mL
   Urine:
                                                                  2,550 mL
                                                                  1,020 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  8,537 mL
                                                                    937 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 560 (396 - 574) mL
   PS : 8 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 57
   PIP: 10 cmH2O
   SpO2: 99%
   ABG: 7.46/32/121/27/0
   Ve: 8.8 L/min
   PaO2 / FiO2: 303
   Physical Examination
   General Appearance: Intubated
   Eyes / Conjunctiva: PERRL, Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   95 K/uL
   8.6 g/dL
   185 mg/dL
   3.9 mg/dL
   27 mEq/L
   3.3 mEq/L
   72 mg/dL
   110 mEq/L
   145 mEq/L
   25.6 %
   7.8 K/uL
        [image002.jpg]
                             [**2187-1-24**]  09:01 PM
                             [**2187-1-24**]  09:20 PM
                             [**2187-1-25**]  04:04 AM
                             [**2187-1-25**]  04:31 AM
                             [**2187-1-25**]  10:35 AM
                             [**2187-1-25**]  11:09 AM
                             [**2187-1-25**]  06:04 PM
                             [**2187-1-25**]  07:49 PM
                             [**2187-1-26**]  02:31 AM
                             [**2187-1-26**]  02:36 AM
   WBC
   7.6
   6.2
   7.8
   Hct
   27.7
   28.5
   29.1
   20.5
   25.6
   Plt
   183
   148
   95
   Cr
   3.9
   3.8
   3.9
   TropT
   0.43
   TCO2
   30
   26
   27
   25
   23
   Glucose
   [**Telephone/Fax (3) 5153**]85
   Other labs: PT / PTT / INR:13.4/30.8/1.2, CK / CKMB /
   Troponin-T:[**Numeric Identifier 5142**]/111/0.43, ALT / AST:189/350, Alk Phos / T Bili:55/0.3,
   Amylase / Lipase:294/436, Differential-Neuts:68.0 %, Band:11.0 %,
   Lymph:14.0 %, Mono:5.0 %, Eos:0.0 %, Fibrinogen:433 mg/dL, Lactic
   Acid:1.4 mmol/L, Albumin:1.7 g/dL, LDH:848 IU/L, Ca++:7.2 mg/dL,
   Mg++:1.7 mg/dL, PO4:5.3 mg/dL
   Assessment and Plan
   67 yo M found down, with alcohol intoxication, rhabdomyolysis, acute
   renal failure and profound acidosis
   # Sepsis: Source likely intra-abd (colitis on scan) vs PNA.
   - Blood cx: GNR, GPC
   - Sputum cx: GPC, group B strep
   - Follow-up blood cultures / UCx
   - CXR in AM
   - Confirm final read CT abdomen, ?biliary tract involvement
   - Current antibiotics include: Vancomycin, Zosyn, Gentamicin,
   Metronidazole
   - can check a gent level, if low, can redose once more and await
   speciation.
   - call micro for speciation
   # Respiratory Failure: Secondary to obtunded mental status, also with
   concern for PNA on chest x-ray.  Unknown past tobacco use or prior
   pulmonary history.
   - GPC in sputum, on vanco
   - Wean vent as tolerated, possible extubation today
   # Rhabdomyolysis: Elevated CK and found down.  Not reportedly on statin
   or other medication that would worsen this.  Thus, likely etiology,
   being found down, is now resolved.  No e/o viral infection or
   autoimmune myopathy at this point.
   - Aggressive hydration with NS/LR
   - Monitoring serial measurements of serum potassium, calcium,
   phosphate, and creatinine
   - CK trending down
   # AMS: Found down, initial GCS =3.  Previous AMS s/p seizures and had
   subtherapeutic phenytoin.  No e/o seizure but cannot rule-out NCSE.
   Also with continued alcohol withdrawal, metabolic abnormalities, and
   likely occult infection.
   - Versed for sedation, should treat possible DTs as well
   - Final read head CT: no acute findings on final read
   - Toxic-metabolic as above
   # Metabolic acidosis: Multifactorial related to ARF with uremia, lactic
   acidosis, acoholic ketoacidosis.  Gap closed.  Likely related to
   alcoholic ketoacidosis, lactic acidosis and the presence of alcohol can
   alter the assay.
   - Good UPO with hydration
   # Alcohol intoxication: Measurable level on admission.
   - Versed as above for sedation
   - Thiamine, folate
   - seizure precautions
   # Hx Sz disorder: Restarted anti-sz meds now that off versed.
   - Sz meds
   - Monitor for sz activity
   # Acute renal failure: Likely multifactorial etiology relating to
   prerenal status, hypovolemia, possibly ATN and then worsened by
   rhabdomyolysis and myoglobin induced nephropathy.  Creat improving.
   - IVF
   - Bicarbonate s/p cath lab intervention
   - Renal consult appreciated
   - follow CK
   # Thrombocytopenia
 PPI v Vanc v Heparin v Cirrhosis
   -          HIT
 low probability, but should find out if he has had
   prior heparin recently
   -          DIC labs
   #  Transaminitis: [**Month (only) 8**] be secondary to initial toxic insult, ischemia,
   alcohol intoxication or viral etiology.  But AST elevated most
   prominently so could all be [**12-18**] muscle breakdown from rhabdomyolysis.
   - Consider further work-up with viral etiology should it worsen
   # Coffee ground emesis: Concern for this upon admission to OSH.  Guaiac
   negative here.
   - Serial Hct
   # Central Arterial line: Left subclavian line in artery, now removed by
   vasc.
   - Follow groin access site
   - Vascular following
   # Pancolitis: Seen on CT scan.  Likely [**12-18**] C.diff for other enteric
   pathogen.  No known exposure to antibiotics.
   - Flagyl / Zosyn
   - Add on po Vanco
   - Surgery following
   FEN: Euvolemic / electrolyte abnormalities as above, hypernatremia
   today will increase free water / NPO
   Ppx: PPI [**Hospital1 **] / pneumoboots
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2187-1-24**] 01:39 PM
   20 Gauge - [**2187-1-24**] 02:41 PM
   Multi Lumen - [**2187-1-25**] 07:00 AM
   Prophylaxis:
   DVT: Boots,
   Stress ulcer: PPI
   VAP:  Bundle
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition: ICU

2187-01-26 10:07:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Cath lab had SCL pulled with extravasation, so stent placed. Hct
   dropped so PRBCs given. BCx with CNS and GNR and sputum with with GBS.
   Off neo.
 ARTERIAL LINE - STOP [**2187-1-25**] 05:00 PM
   right subclavian
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2187-1-24**] 04:00 PM
   Gentamicin - [**2187-1-24**] 05:49 PM
   Vancomycin - [**2187-1-25**] 12:00 PM
   Piperacillin - [**2187-1-26**] 02:00 AM
   Metronidazole - [**2187-1-26**] 05:52 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2187-1-25**] 06:00 PM
   Fentanyl - [**2187-1-26**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-1-26**] 10:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.6
C (96
   HR: 94 (84 - 99) bpm
   BP: 142/73(97) {96/52(63) - 155/74(101)} mmHg
   RR: 18 (0 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 99.6 kg (admission): 80 kg
   CVP: 7 (5 - 21)mmHg
   Total In:
                                                                 11,087 mL
                                                                  1,984 mL
   PO:
   TF:
   IVF:
                                                                  9,677 mL
                                                                  1,864 mL
   Blood products:
                                                                  1,350 mL
   Total out:
                                                                  2,550 mL
                                                                  1,520 mL
   Urine:
                                                                  2,550 mL
                                                                  1,520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  8,537 mL
                                                                    464 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 507 (396 - 574) mL
   PS : 5 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 57
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.47/36/94.[**Numeric Identifier 299**]/27/2
   Ve: 8.4 L/min
   PaO2 / FiO2: 235
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Tender: diffusely
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   95 K/uL
   185 mg/dL
   3.9 mg/dL
   27 mEq/L
   3.3 mEq/L
   72 mg/dL
   110 mEq/L
   145 mEq/L
   25.6 %
   7.8 K/uL
        [image002.jpg]
                             [**2187-1-24**]  09:20 PM
                             [**2187-1-25**]  04:04 AM
                             [**2187-1-25**]  04:31 AM
                             [**2187-1-25**]  10:35 AM
                             [**2187-1-25**]  11:09 AM
                             [**2187-1-25**]  06:04 PM
                             [**2187-1-25**]  07:49 PM
                             [**2187-1-26**]  02:31 AM
                             [**2187-1-26**]  02:36 AM
                             [**2187-1-26**]  09:17 AM
   WBC
   7.6
   6.2
   7.8
   Hct
   27.7
   28.5
   29.1
   20.5
   25.6
   Plt
   183
   148
   95
   Cr
   3.9
   3.8
   3.9
   TropT
   0.43
   TCO2
   26
   27
   25
   23
   27
   Glucose
   [**Telephone/Fax (3) 5153**]85
   Other labs: PT / PTT / INR:13.4/30.8/1.2, CK / CKMB /
   Troponin-T:[**Numeric Identifier 5142**]/111/0.43, ALT / AST:189/350, Alk Phos / T Bili:55/0.3,
   Amylase / Lipase:294/436, Differential-Neuts:68.0 %, Band:11.0 %,
   Lymph:14.0 %, Mono:5.0 %, Eos:0.0 %, Fibrinogen:433 mg/dL, Lactic
   Acid:1.4 mmol/L, Albumin:1.7 g/dL, LDH:848 IU/L, Ca++:7.2 mg/dL,
   Mg++:1.7 mg/dL, PO4:5.3 mg/dL
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 ALCOHOL ABUSE
 HYPERGLYCEMIA
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RHABDOMYOLYSIS
 ACIDOSIS, METABOLIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   1. Sepsis: Possible source GBS PNA, Colitis, GNR bacteremia, CNS
   bacteremia
   -check gent level
   -vanc/zosyn/gent/flagyl
   -ask micro to speciate GNR
   -suspect CNS is from old SCL
   2. Resp failure: Improved, had LLL PNA, no sig secretions, following
   commands
   -hold versed
   -extubate
   3. Rhabdo: Was improving
   -keep uop  at least 100 cc/h
   4. EtOH: Watch for withdrawl
   -valium prn
   5. Seizure d/o
   -cont. depakote
   6. ARF: Cr plateauing, unclear cause may be ATN from sepsis
   -keep uop >100 cc/h
   -check gent level
   7. Thrombocytopenia: Unlikely sepsis
   -DIC labs
   -clarify if got any recent heparin
   -smear for schistocytes
   8. arterial line: now out
   -check hct this afternoon
   9. colitis: C. Diff pending
   -cont. flagyl
   10. FEN: NPO for extubation
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Arterial Line - [**2187-1-24**] 01:39 PM
   Multi Lumen - [**2187-1-25**] 07:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   I have seen and examined the patient with the resident and agree with
   the assessment and plan as above with the following
   emphasis/modifications:
   67 year old male history of alcohol abuse and bipolar disorder who
   presents after being found down for unknown period of time.  Had GCS of
   3 and was intubated and brought to outside hospital.   HCT/neck CT
   negative and transferred to [**Hospital1 5**].
   Yesterday, found to have both gram negatives and gram positives in
   blood.  Was hypotensive and on pressors but now resuscitated and
   improved with good urine output and lactate cleared.  However, mental
   status this morning slightly depressed as just coming off versed today.
   PE T 36.1  P 94  BP 112/70 RR  18   Sat 98%
   Lactate 1.4
   - CT scan with colitis, enlarged gluteal muscle
   Urine output 30-50 cc/hour
   1) Septic Shock
 polymicrobial (gram negatives, gram positives in
   blood
staph coag negative)
 source likely translocation from gut as
   patient has diffuse colitis and staph may be from line although will
   discuss with surgery if could be from gluteal muscles
   2) Colitis
 surgery following
   3) Respiratory Failure
   4) Acidosis
   5) Rhabdomyolysis
   6) Acute Renal Failure
   7) Alcohol Abuse
   8) Malpositioned line in subclavian artery
   Plan:
   1) Continue Zosyn/vancomycin/flagyl
   2) Surgery following for colitis and gluteal muscle swelling (?
   Myositis)
   3) Remove right subclavian malpositioned line in cath lab per vascular
   4) Will plan extubation when mental status improves
 likely secondary
   to sedation
   Critical Care Time: 35
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2187-1-26**] 07:54 PM ------